US05321096
To a reaction vessel equipped with a thermometer, reflux condenser and a stirrer, 200 g of N,N-dimethylformamide (DMF), 65 g (0.409 mol) of 3,4-difluoronitrobenzene, 69.1 g (0.199 mol) of 1,3-bis(4-hydroxycumyl) benzene and 33.1 g (0.239 mol) of potassium carbonate were charged and warmed to 80° C. with stirring. After aging the mixture at 80° C. for 6 hours, inorganic salts was removed by filtration. The filtrate was mixed with 50 ml of water and cooled to the room temperature. The precipitated crystal was filtered and slugged with isopropyl alcohol to obtain 129.4 g (97% yield) of 1,3-bis[4-(4-nitro-6-fluorophenoxy)-α, α-dimethylbenzyl]benzene having a melting point of 150.7°~151.8° C.

reactant | 3,4-difluoronitrobenzene | 0.409 mol, 65 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | 1,3-bis(4-hydroxycumyl) benzene | 0.199 mol, 69.1 g | OC1=CC=C(C(C)(C)C2=CC(=CC=C2)C(C)(C)C2=CC=C(C=C2)O)C=C1 | C24H26O2
reactant | potassium carbonate | 0.239 mol, 33.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 200 g | CN(C=O)C | C3H7NO
product | 1,3-bis[4-(4-nitro-6-fluorophenoxy)-α, α-dimethylbenzyl]benzene | 129.4 g, 97% yield | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C(C)(C)C3=CC(=CC=C3)C(C3=CC=C(C=C3)OC3=CC=C(C=C3F)[N+](=O)[O-])(C)C)C=C2)C(=C1)F | C36H30F2N2O6
